US03969506
Step B: Preparation of 10-(p-fluoro-phenyl)-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one
A solution of 5.4 g. of N-(p-fluoro-phenyl)isatoic anhydride, 2.5 g. of 2-methylmercapto-imidazoline and one pellet (about 100 mg.) sodium hydroxide in 75 ml. of dioxane is refluxed with stirring for 4 hours. The resulting mixture is evaporated to dryness, the residue dissolved in methylene chloride, washed with water and extracted twice with 1N hydrochloric acid. The combined aqueous extracts are washed with methylene chloride and then with diethyl ether and made basic with sodium bicarbonate. The resulting precipitate is filtered off, washed thoroughly with water, dried by suction, dissolved in methylene chloride, dried with sodium sulfate, treated with charcoal and the methylene chloride exchanged for methanol to crystallize 10-(p-fluoro-phenyl)-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one, m.p. 278°-280°C.

reactant | N-(p-fluoro-phenyl)isatoic anhydride | FC1=CC=C(C=C1)N1C=2C(C(=O)OC1=O)=CC=CC2 | C14H8FNO3
reactant | 2-methylmercapto-imidazoline | CSC=1NCCN1 | C4H8N2S
reactant | sodium hydroxide | about 100 mg | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 10-(p-fluoro-phenyl)-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one | FC1=CC=C(C=C1)N1C=2N(C(C3=CC=CC=C13)=O)CCN2 | C16H12FN3O
